US06825188B2
c) 3-[N-(tert-Butoxycarbonyl)-N-(2,2,2-trifluoroethyl)aminomethyl]-4-bromoanisole
To 3-[N-(2,2,2-trifluoroethyl)aminomethyl]-4-bromoanisole (41.35 g, 137 mmol) was added di-tert-butyl dicarbonate (36 g, 165 mmol, liquefied by warming in a hot water bath). The reaction was rinsed down with a small amount of dichloromethane (˜20 mL) and stirred under argon in a 50° C. oil bath for 18 h (slow gas evolution was observed). After concentration by rotary evaporation under vacuum the resulting residue was diluted with hexanes (100 mL) and the solution was seeded with a small amount of the pure solid product (obtained from a previous reaction by silica gel chromatography using 10% EtOAc/hexanes as eluent). The mixture was allowed to stand at RT for several hours then was placed in the refrigerator overnight. The product was collected by suction filtration and washed with hexanes. Drying in vacuum gave the title compound (48.54 g, 88%) as a colorless solid: TLC (10% EtOAc/toluene) Rf 0.52; 1H NMR (400 MHz, CDCl3) δ 7.44 (d, J=9 Hz, 1H), 6.75 (dd, 1H), 6.71 (s, 1H), 4.65 and 4.58 (2s, 2H), 3.90 and 3.78 (2m, 2H), 3.77 (s, 3H), 1.51 and 1.42 (2s, 9H).

reactant | 3-[N-(2,2,2-trifluoroethyl)aminomethyl]-4-bromoanisole | 137 mmol, 41.35 g | FC(CNCC=1C=C(C=CC1Br)OC)(F)F | C10H11BrF3NO
reactant | di-tert-butyl dicarbonate | 165 mmol, 36 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
product | 3-[N-(tert-Butoxycarbonyl)-N-(2,2,2-trifluoroethyl)aminomethyl]-4-bromoanisole | 48.54 g, 88% | C(C)(C)(C)OC(=O)N(CC(F)(F)F)CC=1C=C(C=CC1Br)OC | C15H19BrF3NO3
